US08895313B2
4-(2-Fluoroethoxy)benzoic acid
To a stirred solution of 50% w/v KOH (1.3 ml) and 4-(2-fluoroethoxy)benzaldehyde (0.5 g, 2.98 mmol) in MeOH (6 ml) at 65° C. was added dropwise over 20 min aqueous hydrogen peroxide (30 wt. % in water, 2.45 ml). On completion of the addition the reaction mixture was heated at 65° C. for a further 10 min. On cooling to room temperature, the reaction mixture was acidified with 1 M HCl and extracted with Et2O (3×30 ml). The combined organic extracts were washed with brine (30 ml), dried (Na2SO4) and the solvent removed under reduced pressure to give a solid which was purified by flash chromatography (1:1 Hexane/EtOAc) to give the title compound (0.278 g, 63%) as a colourless solid.

reactant | KOH | 1.3 ml | [OH-].[K+]
reactant | 4-(2-fluoroethoxy)benzaldehyde | 2.98 mmol, 0.5 g | FCCOC1=CC=C(C=O)C=C1 | C9H9FO2
reactant | hydrogen peroxide | 2.45 ml | OO | H2O2
reactant | HCl | 1 M | Cl | ClH
solvent | MeOH | 6 ml | CO | CH4O
product | 4-(2-Fluoroethoxy)benzoic acid | 0.278 g, 63% | FCCOC1=CC=C(C(=O)O)C=C1 | C9H9FO3
